US09169242B2
Step 2: 1-(5-(3-Bromo-4-methylphenyl)-2,2-dimethyl-1,3,4-oxadiazol-3(2H)-yl)ethanone:
A mixture of 3-bromo-4-methyl-N′-(propan-2-ylidene)benzohydrazide (2.0 g, 7.46 mmol), as obtained hereinbefore, and acetic anhydride (30 mL) was refluxed for one hour. The excess of acetic anhydride was removed under vacuum after cooling the reaction mixture to room temperature and the crude residue obtained was triturated with hexane to remove traces of acetic anhydride present in the reaction mixture. The crude product was purified by flash column chromatography (silica gel, 100-200 mesh, 13% ethyl acetate in hexane) to afford 800 mg of the desired product as an oil. 1HNMR (400 MHz, CDCl3) δ 7.97 (s, 1H), 7.65 (d, J=8.0 Hz, 1H), 7.28 (d, J=8.0 Hz, 1H), 2.44 (s, 3H), 2.29 (s, 3H), 1.85 (s, 6H); ESI-MS (m/z) 311, 313 [(MH)+, Br79,81].

reactant | 3-bromo-4-methyl-N′-(propan-2-ylidene)benzohydrazide | 7.46 mmol, 2.0 g | BrC=1C=C(C(=O)NN=C(C)C)C=CC1C | C11H13BrN2O
reactant | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(5-(3-Bromo-4-methylphenyl)-2,2-dimethyl-1,3,4-oxadiazol-3(2H)-yl)ethanone | 800 mg | BrC=1C=C(C=CC1C)C1=NN(C(O1)(C)C)C(C)=O | C13H15BrN2O2
